US08293746B2
Step 1.3: 2,6-Dichloro-3,5-dimethoxyaniline
To a solution of N-(2,6-dichloro-3,5-dimethoxy-phenyl)-acetamide (34.5 g, 264 mmol) in ethanol (1.3 L), 2M KOH (0.72 L) is added. Then, the reaction mixture is heated to reflux, stirred for 44 h at reflux, then allowed to cool to RT. The resulting suspension is cooled to 0° C. stirred for 1 h, and filtered. The residue is washed with a small portion of cold EtOH/H2O (1:1) and with cold H2O till neutrality, and dried to provide the title compound as a white solid: ESI-MS: 222.0/224.0 [MH]+, TLC: Rf=0.52 (Hex/EtOAc, 1:1).

reactant | N-(2,6-dichloro-3,5-dimethoxy-phenyl)-acetamide | 264 mmol, 34.5 g | ClC1=C(C(=C(C=C1OC)OC)Cl)NC(C)=O | C10H11Cl2NO3
solvent | ethanol | 1.3 L | C(C)O | C2H6O
solvent | KOH | 2M, 0.72 L | [OH-].[K+]
product | 2,6-Dichloro-3,5-dimethoxyaniline | ClC1=C(N)C(=C(C=C1OC)OC)Cl | C8H9Cl2NO2
